US05366957
A mixture of 2-fluoro-4-methylsulphonylbenzoic acid (6.0 g) and thionyl chloride were stirred and heated at reflux for 2 hours. The mixture was cooled and evaporated to dryness. Toluene was added and the solvent re-evaporated to 1.5 give 2-fluoro4-methylsulphonylbenzoyl chloride (6.5 g) as a brown solid which was not further purified.

reactant | 2-fluoro-4-methylsulphonylbenzoic acid | 6.0 g | FC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7FO4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-fluoro4-methylsulphonylbenzoyl chloride | 6.5 g | FC1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)C | C8H6ClFO3S
